US07179943B2
(1R)-N-[4-(trifluoromethyl)phenyl]-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1] octane-3-carboxamide
To an ice-cooled solution of (1R)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione (0.36 g, 2.0 mmole), triethylamine (0.20 g, 2.0 mmole) and 4-(dimethylamino)pyridine (0.24 g, 2.0 mmole) in dry dichloromethane (20 mL) was added a solution of 4-(trifluoromethyl)phenyl isocyanate (0.41 g, 2.2 mmole) in dry dichloromethane (3 mL). The resulting reaction mixture was allowed to stir overnight under a nitrogen atmosphere, during which time it came up to room temperature. The resulting mixture was concentrated on a rotary evaporator and then partitioned between dichloromethane and 2N aqueous HCl. The organic layer was dried over anhydrous sodium sulfate and concentrated on a rotary evaporator to give a yellow oil, which was purified by chromatography on silica gel (15% ethyl acetate/hexane) to yield the title compound as a yellow solid (0.67 g, 91% yield), mp=78–81° C.; MS (−) ESI m/z=366 (M−H)−; [α]-D (25)=+24.2° (c=1, EtOH).

reactant | (1R)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione | 2.0 mmole, 0.36 g | C[C@@]12C(CC(C(CC1)C2(C)C)=O)=O | C11H16O2
reactant | triethylamine | 2.0 mmole, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)phenyl isocyanate | 2.2 mmole, 0.41 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
catalyst | 4-(dimethylamino)pyridine | 2.0 mmole, 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (1R)-N-[4-(trifluoromethyl)phenyl]-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1] octane-3-carboxamide | 0.67 g, 91% yield | FC(C1=CC=C(C=C1)NC(=O)C1C([C@@]2(CCC(C1=O)C2(C)C)C)=O)(F)F | C19H20F3NO3
